US09212182B2
N-3-isoxazolyl-1-(2-methoxy-5-(2-pyridinyl)phenyl)-2-oxo-1,2-dihydro-6-quinolinesulfonamide
To a vial charged with 1-(5-bromo-2-methoxyphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (0.100 g, 0.210 mmol) and Pd(Ph3P)4 (0.024 g, 0.021 mmol) in THF (1.050 ml) was added pyridin-2-ylzinc(II) bromide (0.5M in THF) (2.100 ml, 1.050 mmol). The reaction was sealed and heated to 60° C. for 6.5 h. After cooling to RT, ammonium chloride (sat. aq) was added and the product extracted (×3) with DCM. The organics were dried via phase separator and concentrated in vacuo. The crude material was purified via MPLC, eluting with 20-100% ethyl acetate in heptanes to yield desired product, contaminated with triphenylphosphine oxide. The material was triturated in diethyl ether and filtered to yield N-(isoxazol-3-yl)-1-(2-methoxy-5-(pyridin-2-yl)phenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (0.070 g, 0.148 mmol, 70.3% yield) as a light yellow solid. MS (ESL pos. ion) m/z: [M+1] 475.1. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.74 (s, 3 H) 6.44 (d, J=1.76 Hz, 1 H) 6.79-6.85 (m, 2 H) 7.31 (t, J=5.85 Hz, 1 H) 7.42 (d, J=8.81 Hz, 1H) 7.52-7.67 (m, 2 H) 7.97 (d, J=8.01 Hz, 1 H) 8.06 (d, J=2.28 Hz, 1 H) 8.23 (d, J=9.64 Hz, 1 H) 8.31-8.41 (m, 2 H) 8.59-8.64 (m, 1 H) 8.72 (d, J=1.87 Hz, 1 H) 11.59-11.69 (m, 1 H).

reactant | 1-(5-bromo-2-methoxyphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 0.210 mmol, 0.100 g | BrC=1C=CC(=C(C1)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)OC | C19H14BrN3O5S
reactant | pyridin-2-ylzinc(II) bromide | 1.050 mmol, 0.5M, 2.100 ml | [Br-].N1=C(C=CC=C1)[Zn+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 1.050 ml | C1CCOC1 | C4H8O
catalyst | Pd(Ph3P)4 | 0.021 mmol, 0.024 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-3-isoxazolyl-1-(2-methoxy-5-(2-pyridinyl)phenyl)-2-oxo-1,2-dihydro-6-quinolinesulfonamide | O1N=C(C=C1)NS(=O)(=O)C=1C=C2C=CC(N(C2=CC1)C1=C(C=CC(=C1)C1=NC=CC=C1)OC)=O | C24H18N4O5S
